US07678795B2
A solution of methyl-phosphonic acid dimethyl ester (2.1 g) in THF (20 mL) under an argon atmosphere was cooled to −78° C. and treated dropwise with 10.98 mL of a 1.6 M solution of N-butyllithium in hexane keeping the temperature of the reaction mixture below −65° C. After stirring for 15 minutes 5-methyl-1-phenyl-1H-pyrazole-4-carboxylic acid methyl ester (1.9 g in 2 ml THF) were added slowly and the mixture was stirred for 30 minutes (temperature below −65° C.). The reaction mixture was allowed to warm to 0° C., quenched with 1N aqueous HCl, and then partitioned between ACOEt and water. The layers were separated, the organic layer was washed with water, dried over MgSO4, filtered and evaporated to give [2-(5-Methyl-1-phenyl-1H-pyrazol-4-yl)-2-oxo-ethyl]-phosphonic acid dimethyl ester (2.34 g) as a dark brown oil that was used in the next reaction without further purification. MS (ESI): 309.1 (MH+).

reactant | methyl-phosphonic acid dimethyl ester | 2.1 g | COP(OC)(=O)C | C3H9O3P
reactant | N-butyllithium | [Li+].CCC[CH2-]
reactant | 5-methyl-1-phenyl-1H-pyrazole-4-carboxylic acid methyl ester | 2 ml, 1.9 g | COC(=O)C=1C=NN(C1C)C1=CC=CC=C1 | C12H12N2O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | [2-(5-Methyl-1-phenyl-1H-pyrazol-4-yl)-2-oxo-ethyl]-phosphonic acid dimethyl ester | 2.34 g | COP(OC)(=O)CC(=O)C=1C=NN(C1C)C1=CC=CC=C1 | C14H17N2O4P
